US06825170B2
Step A: (2E)-3-(2-Phenyl-5-pyrimidinyl)-2-propenoic Acid Methyl Ester
Dioxane (1.3 mL) was added to a mixture of 5-bromo-2-phenylpyrimidine (310 mg, 1.32 mmol, prepared as described in Org. Lett. 2002, 4, 513), tri-t-butylphosphonium tetrafluoroborate (11 mg, 0.038 mmol), and tris(dibenzylideneacetone)dipalladium(0) (18 mg, 0.020 mmol). N-Methyldicyclohexylamine (0.31 mL, 1.45 mmol) and methyl acrylate (0.24 mL, 2.67 mmol) were added and the mixture was stirred for 72 h at room temperature. The mixture was diluted with ethyl acetate, filtered through a small plug of silica gel which was washed with additional ethyl acetate, and the combined filtrates were concentrated. The residue was triturated with 5:1 hexane/ethyl acetate and the solid was filtered and dried in vacuo to provide 178 mg (56%) of the title compound as an off-white solid. MS 241 (M+H)+.

reactant | Dioxane | 1.3 mL | O1CCOCC1 | C4H8O2
reactant | 5-bromo-2-phenylpyrimidine | 1.32 mmol, 310 mg | BrC=1C=NC(=NC1)C1=CC=CC=C1 | C10H7BrN2
reactant | N-Methyldicyclohexylamine | 1.45 mmol, 0.31 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | methyl acrylate | 2.67 mmol, 0.24 mL | C(C=C)(=O)OC | C4H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-t-butylphosphonium tetrafluoroborate | 0.038 mmol, 11 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
product | (2E)-3-(2-Phenyl-5-pyrimidinyl)-2-propenoic Acid Methyl Ester | 178 mg, 56% | COC(\C=C\C=1C=NC(=NC1)C1=CC=CC=C1)=O | C14H12N2O2
